US08404672B2
A mixture of tert-butyl 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (0.450 g, 0.853 mmol) and trifluoroacetic acid (10.19 mL, 132 mmol) was stirred at room temperature for 60 min. The trifluoroacetic acid was removed under reduced pressure, and the residue was suspended in water (15 mL). The pH was adjusted to approximately 4.5 with a 1N aqueous solution of sodium hydroxide, and the resulting suspension was stirred for 2 h, filtered under reduced pressure, washed with water, and dried well overnight under reduced pressure to give 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid (0.306 g, 0.641 mmol, 75% yield) as a white solid. The product had an HPLC retention time=2.27 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=472.4. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.21-3.27 (m, 3H), 3.40-3.46 (m, 2H), 3.66 (s, 2H) 7.53 (d, J=8.25 Hz, 2H), 7.66-7.70 (m, 1H), 7.98 (d, J=7.70 Hz, 1H), 8.04-8.12 (m, 3H), and 8.83 (d, 1H).

reactant | tert-butyl 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | 0.853 mmol, 0.450 g | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C26H24F3N5O4
reactant | trifluoroacetic acid | 132 mmol, 10.19 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid | 0.641 mmol, 0.306 g, 75% yield | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C22H16F3N5O4
